US06444833B1
Synthesis of 2-methyl-3-[1-phenylpyrrol-2-yl]propanoic acid
A mixture of ethyl 2-methyl-3-[1-phenylpyrrol-2-yl]propanoate (0.164 mol, 42.1 g) and Claisen's reagent (78 ml) were heated at 90-95° C. for 1 h. After cooling to room temperature, the solution was diluted with 75 g of crushed ice and acidified to pH 1-2 with 6 N HCl. The brown oily precipitate was dissolved in ether, washed with brine solution, dried over MgSO4, and evaporated to an orange oil (21.65 g). The title compound was analysed by 1H-NMR spectroscopy.

reactant | ethyl 2-methyl-3-[1-phenylpyrrol-2-yl]propanoate | 0.164 mol, 42.1 g | CC(C(=O)OCC)CC=1N(C=CC1)C1=CC=CC=C1 | C16H19NO2
reactant | HCl | 6 N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-methyl-3-[1-phenylpyrrol-2-yl]propanoic acid | CC(C(=O)O)CC=1N(C=CC1)C1=CC=CC=C1 | C14H15NO2
